US05441955
5-Azaisatin
A solution of N-allyl-5-azaisatin (5.3 mmol), (Ph3P)3RhCl (0.5 mmol) in aqueous toluene is stirred under a nitrogen atmosphere at room temperature overnight. The organic layer is dried (MgSO4) and the solvent is evaporated. The residue is stirred in 1N HCl/MeOH for 15 min after which time the methanol is evaporated and the pH of the water is adjusted to 7. A precipitate is formed and purified by silica gel chromatography (1% MeOH:CHCl3) to obtain the title compound.

reactant | N-allyl-5-azaisatin | 5.3 mmol | C(C=C)N1C(=O)C(=O)C2=CN=CC=C12 | C10H8N2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-Azaisatin | N1C(=O)C(=O)C2=CN=CC=C12 | C7H4N2O2
